US06900227B2
Preparation of Bis-(3,5-difluoro-phenyl)-methanol
A mixture of 486 mg magnesium, 8 mL dry ether, a small amount of 3,5-difluoro-bromobenzene and some iodine was warmed to start the Grignard reaction. 2.38 mL 3,5-difluoro-bromobenzene in 40 mL dry ether were added dropwise and the mixture refluxed for one hour. 0.81 mL ethyl formate was added and the mixture stirred for 21 hours at room temperature. The reaction was quenched with 7 mL 1N hydrochloric acid, diluted with ethyl acetate and washed with water and brine. Evaporation of the solvents and chromatography of the residue afforded 1.56 g of a light yellow solid, m.p.: 62° C.; MS: 315 ([M+AcO]−).

reactant | magnesium | 486 mg | [Mg] | Mg
reactant | 3,5-difluoro-bromobenzene | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | iodine | II | I2
reactant | 3,5-difluoro-bromobenzene | 2.38 mL | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | ethyl formate | 0.81 mL | C(=O)OCC | C3H6O2
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 8 mL | CCOCC | C4H10O
product | Bis-(3,5-difluoro-phenyl)-methanol | 1.56 g | FC=1C=C(C=C(C1)F)C(O)C1=CC(=CC(=C1)F)F | C13H8F4O
